US06294558B1
4-Bromoacetyl-2-(fluoro)benzenesulfonamide. (step 2)
To a suspension of 4-acetyl-2-(fluoro)benzenesulfonamide from steo 1 (4.0 g, 18 mmol) in acetic acid (90 mL) was added dropwise a solution of bromine (2.9 g, 18 mmol) in acetic acid (10 mL) at 40° C. The mixture was heated at 70° C. for 4 h. After cooled to room temperature, the mixture was concentrated and the residual brown solid was rrecrystallized from ethyl acetate-hexane to give the title compound (3.2 g, 60%).

reactant | 4-acetyl-2-(fluoro)benzenesulfonamide | C(C)(=O)C1=CC(=C(C=C1)S(=O)(=O)N)F | C8H8FNO3S
reactant | bromine | 18 mmol, 2.9 g | BrBr | Br2
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-Bromoacetyl-2-(fluoro)benzenesulfonamide | 3.2 g, 60% | BrCC(=O)C1=CC(=C(C=C1)S(=O)(=O)N)F | C8H7BrFNO3S
